US06809200B2
5-(5-Acetyl-2-butoxy-3-pyridinyl)-3-ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one hydrochloride
A solution of 4M hydrochloric acid in dioxan (1 mL) was added to ethyl acetate (3 mL). An aliquot of this solution (0.3 mL), was then added to a solution of 5-(5-acetyl-2-butoxy-3-pyridinyl)-3-ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one (132 mg, 0.3 mmol) in ethyl acetate (5 mL) giving a precipitate. This mixture was warmed to 50° C. for 10 minutes, then allowed to cool to 0° C. The resulting powder was filtered, washed with ethyl acetate and dried at 50° C. in vacuo, to afford the title compound, 118 mg (81%).

reactant | hydrochloric acid | 4M | Cl | ClH
reactant | 5-(5-acetyl-2-butoxy-3-pyridinyl)-3-ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one | 0.3 mmol, 132 mg | C(C)(=O)C=1C=C(C(=NC1)OCCCC)C=1NC(C=2C(N1)=C(N(N2)C2CN(C2)CC)CC)=O | C23H30N6O3
solvent | dioxan | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 5-(5-Acetyl-2-butoxy-3-pyridinyl)-3-ethyl-2-(1-ethyl-3-azetidinyl)-2,6-dihydro-7H-pyrazolo[4,3-d]pyrimidin-7-one hydrochloride | Cl.C(C)(=O)C=1C=C(C(=NC1)OCCCC)C=1NC(C=2C(N1)=C(N(N2)C2CN(C2)CC)CC)=O | InChI=1S/C23H30N6O3.ClH/c1-5-8-9-32-23-17(10-15(11-24-23)14(4)30)21-25-19-18(6-2)29(16-12-28(7-3)13-16)27-20(19)22(31)26-21;/h10-11,16H,5-9,12-13H2,1-4H3,(H,25,26,31);1H
